US07563910B2
2-Methyl-1-[(R)-1-(tetrahydro-furan-2-yl)methyl]-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to example 7, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-[2-(trifluoromethoxy)phenyl]-ethanone as compound of formula S, (R)-tetrahydrofurfurylamine as R3—(CH2)m—NH2 and cyclohexylamine as R1R2NH, MS (ISP) 451.5 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-[2-(trifluoromethoxy)phenyl]-ethanone | BrCC(=O)C1=C(C=CC=C1)OC(F)(F)F | C9H6BrF3O2
reactant | (R)-tetrahydrofurfurylamine | C([C@H]1CCCO1)N | C5H11NO
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 2-Methyl-1-[(R)-1-(tetrahydro-furan-2-yl)methyl]-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC=C1)OC(F)(F)F)C[C@@H]1OCCC1)C | C24H29F3N2O3
